### PR TITLE
[Merged by Bors] - feat(RingTheory/AdicCompletion): completeness of `AdicCompletion`

### PR DESCRIPTION
**Pull request by BryceT233**
This is the last PR split from #34936, which follows [[Stacks 05GG](https://stacks.math.columbia.edu/tag/05GG)] and formalizes the result that `AdicCompletion I M` is `I`-adically complete when the ideal `I` is finitely generated.

---

- [x] depends on: #35595
- [x] depends on: #35646
- [x] depends on: #35647
- [x] depends on: #35660

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/RingTheory/AdicCompletion/Basic.lean [hunk 1]
```diff
@@ -675,12 +678,32 @@ theorem of_ofLinearEquiv_symm (x : AdicCompletion I M) :
 
 end Bijective
 
+set_option backward.isDefEq.respectTransparency false in
+theorem pow_smul_top_le_eval_ker (n : ℕ) : I ^ n • ⊤ ≤ (eval I M n).ker := by
```
Comment (Ruben-VandeVelde) [inline Mathlib/RingTheory/AdicCompletion/Basic.lean]: `le_ker_eval`, I think

File: Mathlib/RingTheory/AdicCompletion/Completeness.lean [hunk 2]
```diff
@@ -0,0 +1,185 @@
...
+theorem ofPowSMul_injective (n : ℕ) : Function.Injective (ofPowSMul I M n) := by
+  rw [← LinearMap.ker_eq_bot, LinearMap.ker_eq_bot']
+  intro x hx; ext i
+  simp only [AdicCompletion.ext_iff, val_zero, Pi.zero_apply] at hx
+  specialize hx (i + n)
+  rw [ofPowSMul_val_apply I (by rw [add_comm]),
+    LinearMap.map_eq_zero_iff _ (powSMulQuotInclusion_injective ..)] at hx
+  simp [hx]
+
+private lemma liftOfValZeroAux_exists {x : AdicCompletion I M} (h : c = b + a)
```
Comment (Ruben-VandeVelde) [inline Mathlib/RingTheory/AdicCompletion/Completeness.lean]: I think `OfValEqZero` throughout

File: Mathlib/RingTheory/AdicCompletion/Completeness.lean [hunk 3]
```diff
@@ -0,0 +1,185 @@
...
+      (show i + k + n = k + (i + n) by ring), LinearMap.comp_apply, liftOfValZeroAux_prop]
+    exact x.prop (by lia)
+
+@[simp]
+theorem ofPowSMul_liftOfValZero {n : ℕ} {x : AdicCompletion I M} (hxn : x.val n = 0) :
+    ofPowSMul I M n (liftOfValZero I hxn) = x := by
+  ext i; by_cases h : n ≤ i
+  · obtain ⟨k, rfl⟩ := Nat.exists_eq_add_of_le' h
+    rw [ofPowSMul_val_apply _ (by rfl), liftOfValZero, liftOfValZeroAux_prop]
+  replace h : i ≤ n := by lia
```
Comment (Ruben-VandeVelde) [inline Mathlib/RingTheory/AdicCompletion/Completeness.lean]: If you use `by_cases!`, this is probably just `h.le`

File: Mathlib/RingTheory/AdicCompletion/Completeness.lean [hunk 4]
```diff
@@ -0,0 +1,185 @@
...
+  rw [ofPowSMul_val_apply_eq_zero _ h, ← x.prop h, hxn, _root_.map_zero]
+
+set_option backward.isDefEq.respectTransparency false in
+theorem restrictScalars_ofPowSMul_range_eq_eval_ker {n : ℕ} :
```
Comment (Ruben-VandeVelde) [inline Mathlib/RingTheory/AdicCompletion/Completeness.lean]:
```suggestion
theorem restrictScalars_range_ofPowSMul_eq_ker_eval {n : ℕ} :
```

File: Mathlib/RingTheory/AdicCompletion/Completeness.lean [hunk 5]
```diff
@@ -0,0 +1,185 @@
...
+      ((of I R) (f i) • .id : AdicCompletion I M →ₗ[AdicCompletion I R] AdicCompletion I M)) ∘ₗ
+        (finsuppLEquivDirectSum (AdicCompletion I R) (AdicCompletion I M) ι).symm.toLinearMap =
+    (map I (lsum R fun i ↦ f i • .id) ∘ₗ map I (finsuppLEquivDirectSum R M ι).symm.toLinearMap) ∘ₗ
+      (sum I (fun _ : ι ↦ M)) := by
+  ext
+  simp only [LinearMap.coe_comp, coe_lsum, LinearEquiv.coe_coe, Function.comp_apply,
+    finsuppLEquivDirectSum_symm_lof, LinearMap.smul_apply, LinearMap.id_coe, id_eq, smul_zero,
+    sum_single_index, smul_eval, smul_eq_mul, of_apply, mkQ_apply, Ideal.Quotient.mk_eq_mk,
+    mk_apply_coe, sum_lof, map_mk, AdicCauchySequence.map_apply_coe, map_smul]
+  rfl
```
Comment (Ruben-VandeVelde) [inline Mathlib/RingTheory/AdicCompletion/Completeness.lean]: What does this `rfl` prove? Please check if you can use API.

File: Mathlib/RingTheory/AdicCompletion/Completeness.lean [hunk 6]
```diff
@@ -0,0 +1,185 @@
...
+  simp only [LinearMap.mem_ker, coe_eval] at hx
+  use liftOfValZero I hx; simp
+
+set_option backward.isDefEq.respectTransparency false in
+lemma lsum_smul_comp_finsuppLEquivDirectSum_symm {ι : Type*} [DecidableEq ι] (f : ι → R) :
+    ((lsum (AdicCompletion I R)) fun i ↦
+      ((of I R) (f i) • .id : AdicCompletion I M →ₗ[AdicCompletion I R] AdicCompletion I M)) ∘ₗ
+        (finsuppLEquivDirectSum (AdicCompletion I R) (AdicCompletion I M) ι).symm.toLinearMap =
+    (map I (lsum R fun i ↦ f i • .id) ∘ₗ map I (finsuppLEquivDirectSum R M ι).symm.toLinearMap) ∘ₗ
+      (sum I (fun _ : ι ↦ M)) := by
```
Comment (Ruben-VandeVelde) [inline Mathlib/RingTheory/AdicCompletion/Completeness.lean]: This statement is perfectly unreadable to me :)

Is it worthwhile adding a documentation string?

File: Mathlib/RingTheory/AdicCompletion/Completeness.lean [hunk 7]
```diff
@@ -0,0 +1,185 @@
...
+  simp only [LinearMap.coe_comp, coe_lsum, LinearEquiv.coe_coe, Function.comp_apply,
+    finsuppLEquivDirectSum_symm_lof, LinearMap.smul_apply, LinearMap.id_coe, id_eq, smul_zero,
+    sum_single_index, smul_eval, smul_eq_mul, of_apply, mkQ_apply, Ideal.Quotient.mk_eq_mk,
+    mk_apply_coe, sum_lof, map_mk, AdicCauchySequence.map_apply_coe, map_smul]
+  rfl
+
+set_option backward.isDefEq.respectTransparency false in
+variable {I} in
+@[stacks 05GG "(2)"]
+theorem pow_smul_top_eq_eval_ker {n : ℕ} (h : I.FG) : I ^ n • ⊤ = (eval I M n).ker := by
```
Comment (Ruben-VandeVelde) [inline Mathlib/RingTheory/AdicCompletion/Completeness.lean]: `ker_eval`

File: Mathlib/RingTheory/AdicCompletion/Completeness.lean [hunk 8]
```diff
@@ -0,0 +1,185 @@
...
+  classical
+  refine le_antisymm (pow_smul_top_le_eval_ker ..) ?_
+  replace h := Ideal.FG.pow (n := n) h
+  rcases h with ⟨s, hs⟩
+  simp only [← hs, span_smul_eq]
+  rw [← restrictScalars_top R (AdicCompletion I R) (AdicCompletion I M),
+    ← restrictScalars_image_smul_eq (R := AdicCompletion I R), show
+    ⇑(algebraMap R (AdicCompletion I R)) = of I R by rfl,
```
Comment (Ruben-VandeVelde) [inline Mathlib/RingTheory/AdicCompletion/Completeness.lean]: This `rfl` would also best be avoided

File: Mathlib/RingTheory/AdicCompletion/Completeness.lean [hunk 9]
```diff
@@ -0,0 +1,185 @@
...
+    ← restrictScalars_ofPowSMul_range_eq_eval_ker, restrictScalars_le,
+    image_smul_top_eq_range_lsum]
+  simp only [SetLike.coe_sort_coe]
+  rw [← LinearMap.range_comp_of_range_eq_top (f := (finsuppLEquivDirectSum ..).symm.toLinearMap)
+    _ (by simp), lsum_smul_comp_finsuppLEquivDirectSum_symm,
+    LinearMap.range_comp_of_range_eq_top _ (LinearMap.range_eq_top_of_surjective _ <|
+      Function.RightInverse.surjective (g := sumInv ..) (fun _ ↦ by
```
Comment (Ruben-VandeVelde) [inline Mathlib/RingTheory/AdicCompletion/Completeness.lean]: Is there a lemma about `sumInv` you can factor out?

File: Mathlib/RingTheory/AdicCompletion/Completeness.lean [hunk 10]
```diff
@@ -0,0 +1,185 @@
...
+      Function.RightInverse.surjective (g := map I (finsuppLEquivDirectSum R M s)) (fun _ ↦ by
+      simp [← LinearMap.comp_apply, map_comp]))]
+  rintro _ ⟨x, rfl⟩
+  have : Function.Surjective ((lsum R fun i : s ↦ i.val • (LinearMap.id : M →ₗ[R] M)).codRestrict
+    (I ^ n • ⊤) (fun _ ↦ by simp [← hs, span_smul_eq, smul_top_eq_range_lsum])) := by
+    rw [← LinearMap.range_eq_top, LinearMap.range_codRestrict, ← hs, span_smul_eq,
+      smul_top_eq_range_lsum]
+    simp
+  rcases map_surjective I this x with ⟨x, rfl⟩
+  exact ⟨x, by rw [ofPowSMul, ← LinearMap.comp_apply, map_comp]; rfl⟩
```
Comment (Ruben-VandeVelde) [inline Mathlib/RingTheory/AdicCompletion/Completeness.lean]: And this `rfl`

**Review by Ruben-VandeVelde — APPROVED** [review]
Some minor comments. Thanks!

File: Mathlib/RingTheory/AdicCompletion/Completeness.lean (hunk 6 above)
Comment (BryceT233) [reply Mathlib/RingTheory/AdicCompletion/Completeness.lean]: I agree :) I found it pretty hard to write myself, and almost just made it private when I finished. It's an intermediate helper lemma for the theorem below to avoid introducing `AdicCompletion.finsuppSum`(a `Finsupp` version of `AdicCompletion.sum`)

File: Mathlib/RingTheory/AdicCompletion/Completeness.lean (hunk 9 above)
Comment (BryceT233) [reply Mathlib/RingTheory/AdicCompletion/Completeness.lean]: I rewrote the private lemma above and upgraded the `sum` here to `sumEquivOfFintype` so that the surjectivity is free

**Comment by BryceT233** [comment]
-awaiting-author

File: Mathlib/RingTheory/AdicCompletion/Completeness.lean [hunk 11]
```diff
@@ -0,0 +1,193 @@
...
+    (I ^ n • ⊤) (fun _ ↦ by simp [← hs, span_smul_eq, smul_top_eq_range_lsum])) := by
+    rw [← LinearMap.range_eq_top, LinearMap.range_codRestrict, ← hs, span_smul_eq,
+      smul_top_eq_range_lsum]
+    simp
+  rcases map_surjective I this x with ⟨x, rfl⟩
+  exact ⟨x, by rw [← LinearMap.comp_apply, map_comp, LinearMap.subtype_comp_codRestrict]⟩
+
+variable {I} in
+/-- `AdicCompletion I M` is adic complete when `I` is finitely generated. -/
+theorem isAdicComplete (h : I.FG) : IsAdicComplete I (AdicCompletion I M) where
```
Comment (jcommelin) [inline Mathlib/RingTheory/AdicCompletion/Completeness.lean:180]:
```suggestion
@[stacks 05GG "(1)"]
theorem isAdicComplete (h : I.FG) : IsAdicComplete I (AdicCompletion I M) where
```

**Review by jcommelin — COMMENTED** [review]
Thanks! This looks good to me. I think you can add one more stacks tag, if I'm not mistaken.

bors d+
